US05665329
E. Preparation of N-(3-methyl-2-butenyl)-2-(2-nitro-1H-imidazol-1-yl)acetamide
2-(2-Nitro-1H-imidazol-1-yl)acetic acid (8.6 g, 50 mmol) was dissolved in DMF (50 mL). Carbonyl diimidazole [CDI] (8.7 g, 60 mmol) was added to the solution in small portions. The reaction mixture was stirred under N2 for 15 min. 3,3-Dimethylallylamine hydrochloride was suspended in DMF (50 mL) and stirred with NaHCO3 (4.2 g, 50 mmol). This suspension was added to the CDI and 2-(2-nitro-1H-imidazol-1-yl)acetic acid in DMF solution. The mixture was stirred under N2 atmosphere at room temperature overnight. TLC (silica gel, 10% methanol-dichloromethane) showed one spot with Rf =0.5, indicating completion of the reaction. DMF was evaporated on a rotary evaporator and the residue was triturated with ice-water (125 mL) and filtered. The solid was washed with cold water (3×50 mL) and dried in vacuum to give a white solid. Yield: 7.2 g (61%). mp: 174°-176° C. MS: 254 (M+NH4)+, 238 (M+H)+. 1H NMR (DMSO-d6) δ1.62 and 1.68 [s, 6H, =C(C H3)2 ], 3.68 (t, 2H, C H2CH=), 5.08 (s, 2H, COCH2 -imidazolyl), 5.14 (t, 1H, CH2C H=), 7.19 and 7.62 (s, 2H, 2-nitroimidazolyl- H), 8.37 (t, 1H, HNCO). Anal. Calcd. for C20H32N10O7 : Calcd: C, 50.41; H, 5.92; N, 23.52. Found: C, 50.67; H, 5.97; N 23.38.

reactant | 2-(2-Nitro-1H-imidazol-1-yl)acetic acid | 50 mmol, 8.6 g | [N+](=O)([O-])C=1N(C=CN1)CC(=O)O | C5H5N3O4
reactant | Carbonyl diimidazole | 60 mmol, 8.7 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3,3-Dimethylallylamine hydrochloride | Cl.CC(=CCN)C
reactant | NaHCO3 | 50 mmol, 4.2 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | methanol dichloromethane | CO.ClCCl
product | N-(3-methyl-2-butenyl)-2-(2-nitro-1H-imidazol-1-yl)acetamide | CC(=CCNC(CN1C(=NC=C1)[N+](=O)[O-])=O)C | C10H14N4O3
